US04692465
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(3-hydroxypropoxy)-2-(3-chlorophenyl)ethanamine hydrochloride
The title compound was prepared as a 56:44 mixture of diastereoisomers, mp 110°-114° C. (ethyl acetate-cyclohexane), from 1-(4-carbomethoxymethoxyphenyl)propan-2-one (4.3 g) and 2-(3-hydroxypropoxy)-2-(3-chlorophenyl)ethanamine (4.5 g) by an analogous procedure to that described in Example 1.

reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | 4.3 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-(3-hydroxypropoxy)-2-(3-chlorophenyl)ethanamine | 4.5 g | OCCCOC(CN)C1=CC(=CC=C1)Cl | C11H16ClNO2
solvent | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(3-hydroxypropoxy)-2-(3-chlorophenyl)ethanamine hydrochloride | Cl.C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OCCCO | InChI=1S/C23H30ClNO5.ClH/c1-17(13-18-7-9-21(10-8-18)30-16-23(27)28-2)25-15-22(29-12-4-11-26)19-5-3-6-20(24)14-19;/h3,5-10,14,17,22,25-26H,4,11-13,15-16H2,1-2H3;1H
